US07745641B2
In a similar manner to Step. 4 of Example 16, 4-methoxymethoxy-5-methyl-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (500 mg, 1.07 mmol) was dissolved in nitromethane (20 mL), and the solution was treated with trifluoroacetic acid (0.742 mL, 9.63 mmol) and triethylsilane (1.54 mL, 9.64 mmol). The reaction mixture was added with saturated aqueous sodium hydrogencarbonate solution and ethyl acetate. The precipitated solid was collected by filtration and washed with water, followed by drying under reduced pressure to obtain 4-hydroxy-5-methyl-7-iodoisoindolinone (161 mg, yield 52%).

reactant | 4-methoxymethoxy-5-methyl-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 1.07 mmol, 500 mg | COCOC1=C2C(N(C(C2=C(C=C1C)I)=O)C(C)(C1=CC=CC=C1)C)O | C20H22INO4
reactant | trifluoroacetic acid | 9.63 mmol, 0.742 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 9.64 mmol, 1.54 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | nitromethane | 20 mL | [N+](=O)([O-])C | CH3NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-hydroxy-5-methyl-7-iodoisoindolinone | 161 mg, yield 52% | OC1=C2CNC(C2=C(C=C1C)I)=O | C9H8INO2
